Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AMS
 
Major Surgical or Invasive Procedure:
Conversion of PEG to GJ
Intubation, successfully extubated

 
History of Present Illness:
HPI: ___ is a ___ old man with a history of HTN,
dyslipidemia, alcoholism who suffered a severe TBI on ___ and
retuns today with worse mental status and new jittering
movements. 

Mr. ___ was discharged from ___ to ___ on ___. At that
point, he was able to identify his family, answer simple
questions (though attention was limited), name objects, spell
words, recognize his friends in photos and follow most commands.
He was moving all extremities, with some weakness in his R-side,
but not remarkably different from his left side.  

He appeared to decline in terms of his speech, his 
responsiveness
and his interactions two days ago. He also became more unsteady
and started having kicking, jittering movements of his arms and
legs. These were more noticeable when he seemed angry or
frustrated. 

These jittering, kicking movements are never rhythmic, they are
never stereotyped and he seems to continue to look around or 
make
eye contact when this is happening. He will sometimes kick one
leg, and other times both his legs. He will sometimes move both
his arms and other times just one arm. There were reports that
Keppra was not given at ___, but the MAR indicates that he
actually has been receiving it. 

On ___, Mr. ___ was found down on the driveway,
intoxicated. His CT demonstrated extensive IPH, IVH and SAH.
Initially during the admission his cerebral edema was treated
with hyperosmolar therapy, which was weaned off as he improved.
About a week into his admission, he was noted to be more
somnolent and was not following commands. This was in the 
setting
of intermittent fevers (VAP and klebsiella UTI). An EEG showed
multifocal epileptiform discharges, but no seizures (___). 
An
MRI on ___ showed new L ACA infarcts likely secondary to
subfalcine herniation and compression. He ultimately improved 
and
had a PEG placed on ___. He was discharged to ___ five
days ago (___). He was discharged on 1000 mg BID Keppra. 
 
Past Medical History:
PMH:
IPH/IVH/___
Ventilator associated pneumonia
Klebsiella UTI
Hypertension
 
Social History:
___
Family History:
Mother and sister with primary biliary sclerosis.
 
Physical Exam:
Physical Exam:
Vitals: T: 98.6 P: 60 R: 18 BP: 101/68 SaO2: 97%
General: Awake, looking around, irritable
HEENT: MMM, no lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA, no increased work of breathing
Cardiac: RRR, nl. 
Abdomen: soft, NT/ND
Extremities: 2+ radial, DP pulses bilaterally.
Skin: Small erythematous rash on right wrist

Neurologic:

-Mental Status: No verbal output during the admission. Makes 
good
eye contact and reaches for his daughter's hand. Does not follow
commands or answer questions. Does not mimic.  

-Cranial Nerves:
II, III, IV, VI: PERRL 4 to 2mm. Left gaze preference, but does
cross midline. No clear nystagmus, but patient does not track
consistently. Does not tolerate fundascopic exam. 
V: unable to test
VII: Mild right ptosis
VIII: Attends to sound
IX, X: Palate elevates symmetrically.
XI: turns head from side to side, but unable to test strength
XII: unable to test

-Motor: Decreased bulk in LEs. Good antigravity strength
throughout. Intermittent kicking and thrashing movements of arms
and legs, NOT synchronized, NOT rhythmic, does not interrupt eye
contact. Seems to be elicited by touch or shining light in eyes. 


-Sensory: responds to noxious x4. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    3   1
R  3  2    3    3  1x catch

Toes upgoing bilaterally.

Discharge Exam:
VITALS: 97.7  135/47 (126-148/46-90)   56-106   18   100% FT
GENERAL: Alert and interactive, responding appropriately to 
questions, not oriented to location in a hospital or month
HEENT: Sclerae anicteric, mucous membranes moist, oropharynx 
clear 
NECK: Supple, no LAD
RESP:  Breath sounds clear on left when auscultated anteriorly, 
rhonchi on right
CV: S1 + S2, ___ systolic murmur at RUSB  
ABD: +BS, soft, nondistended, nontender to palpation. PEG in 
place with GJ conversion tube, no erythema or exudate 
surrounding site.
GU: No foley  
EXT: Warm, well perfused, 2+ pulses, no edema  
NEURO: PERRL, moving all extremities with command 

 
Pertinent Results:
ADMISSION LABS:
___ 09:20PM BLOOD WBC-7.7# RBC-2.92* Hgb-9.0* Hct-28.1* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-15.7* RDWSD-55.3* Plt ___
___ 09:20PM BLOOD Neuts-65.9 Lymphs-18.4* Monos-11.9 
Eos-2.7 Baso-0.6 Im ___ AbsNeut-5.08 AbsLymp-1.42 
AbsMono-0.92* AbsEos-0.21 AbsBaso-0.05
___ 09:20PM BLOOD Glucose-102* UreaN-18 Creat-0.8 Na-140 
K-4.1 Cl-101 HCO3-24 AnGap-19
___ 09:20PM BLOOD ALT-40 AST-15 AlkPhos-111 TotBili-0.6
___ 05:35AM BLOOD Calcium-10.0 Phos-4.1 Mg-2.0

PERTINENT INTERVAL LABS:
___ 12:45PM BLOOD Ret Aut-1.2 Abs Ret-0.03
___ 07:17PM BLOOD cTropnT-<0.01
___ 12:45PM BLOOD calTIBC-226* VitB12-602 Folate-15.1 
Ferritn-1014* TRF-174*
___ 12:45PM BLOOD TSH-4.7*
___ 05:35AM BLOOD Free T4-1.3
___ 09:35AM BLOOD Vanco-17.2

IMAGING/STUDIES: 

CT HEAD ___. Interval increase in size of the bilateral lateral 
ventricles, and third ventricle, most likely related to cortical 
volume loss   
2. Diffuse bifrontal, left temporal, and right cerebellar 
hypodensities, are likely sequelae of patient's prior multi 
compartmental hemorrhage, with subtle areas of increased density 
along periphery of left frontal lobe, and left temporal lobe 
possibly due to adjacent cortex or cortical laminar necrosis. No 
definite evidence of new intracranial hemorrhage. 

EEG ___
This is an abnormal video-EEG monitoring session due to the 
presence of a disorganized background characterized by fast 
activity with 
admixed delta slowing which is more prominent bifrontally. This 
finding is 
consistent with a moderate encephalopathy that is nonspecific 
with regard to etiology. Two of the patient's typical events of 
bilateral arm/leg nonrhythmic tremors are captured. There is no 
epileptiform activity on EEG or changes in heart rate at those 
times. There are no epileptiform discharges or electrographic 
seizures. 

MRI HEAD ___. Interval decrease in the size of the subacute hemorrhagic 
contusions in the bilateral frontal, left temporal, right 
occipital, and right cerebellar hemisphere with marked interval 
decrease in the surrounding edema and local mass effect. 
2. Interval decrease in the subarachnoid hemorrhage within the 
occipital horn of the left lateral ventricle and tiny subdural 
hematomas along the posterior falx and bilateral occipital 
lobes. 
3. Interval resolution of the restricted diffusion in the left 
anterior 
cingulate gyrus and splenium of the corpus callosum and 
decreased size of the areas of restricted diffusion in the 
bilateral posterior parietal lobes, representing the sequela of 
trauma. 
4. No new hemorrhages or acute infarctions. 

CT ABD/PELVIS ___. Small amount of free intraperitoneal gas in the upper 
abdomen.  No evidence of bowel perforation.  Free gas may be 
secondary to the placement and/or leak of gastrostomy tube, 
although this was placed on ___. 
2. AVN of the bilateral femoral heads. 

CXR ___
ET tube tip is 3.5 cm above the carina.  Since the prior study 
there has been development of widespread parenchymal opacities 
concerning for pulmonary edema.  Superimposed infection is a 
likely possibility as well.  Heart size and mediastinum are 
unchanged in position.  There is no appreciable pleural effusion 
or pneumothorax demonstrated. 

CXR ___ 
Compared to chest radiographs ___.  
Previous severe pulmonary edema continues to clear, with mild to 
moderate 
residual.  There is no appreciable pleural effusion or evidence 
of pneumothorax.  Heart size normal.  ET tube in standard 
placement 

MICROBIOLOGY: 

Time Taken Not Noted     Log-In Date/Time: ___ 12:11 am
      URINE     Site: NOT SPECIFIED      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 

___ 5:31 pm CSF;SPINAL FLUID      Source: LP. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

___ Lyme Serology: NEGATIVE
___ RPR: NON-REACTIVE
___ BCx PENDING x 2

___ 11:12 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    >100,000 ORGANISMS/ML.. 

DISCHARGE LABS:
___ 06:05AM BLOOD WBC-7.4 RBC-3.03* Hgb-9.1* Hct-28.8* 
MCV-95 MCH-30.0 MCHC-31.6* RDW-14.8 RDWSD-51.7* Plt ___
___ 09:55AM BLOOD ___ PTT-28.8 ___
___ 06:05AM BLOOD Glucose-97 UreaN-14 Creat-0.5 Na-138 
K-4.2 Cl-101 HCO3-29 AnGap-12
___ 06:05AM BLOOD Calcium-8.9 Phos-2.9 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ old man s/p extensive TBI with IPH, IVH 
and SAH 1.5 months ago presenting with a dramatic decline in 
mental status and verbal output in the last ___, along with 
intermittent jerking/kicking movements of his extremities. His 
exam on admission was significant for possible R facial weakness 
and intermittent kicking/jerking movements that were 
dyssynchronous and nonrhythmic. He did not have any verbal 
output and did not follow any commands. His course was 
complicated by hypoxemic respiratory failure requiring 
intubation, likely due to aspiration and mucus plugging, which 
resolved. At discharge, his encephalopathy had substantially 
improved, as he became interactive and conversational with no 
right sided weakness. 

# Acute Hypoxemic Respiratory Failure: On ___, on morning 
rounds, he was noted to be tachypneic to the ___, pale, and 
using accessory muscles. SBP 160s. His SpO2 was 80% on RA, and 
his lungs were rhonchorous, R>L. He still had the new murmur 
(see below), and his HR as in the 1ow 100s and irregularly 
irregular. Palpation of the LLQ of his abdomen elicited a 
grimace. He was non-verbal with eyes open, he was regarding the 
examiner, but he as not following commands. He was put on NC, 
and an ABG was obtained: 7.42/29/70/___/-3. TFs held. His SpO2 
remained 85 on NC, so he was put on a NRB with Sp02 91-92% 
initially. A stat CXR was ordered, which showed widespread 
parenchymal opacities suggestive of pulmonary edema vs. 
infection. His AM labs were pending, but later found to be 
stable. His wife was updated, and she reversed his code status 
from DNR/DNI to DNR/okay to intubate. Shortly thereafter, his 
face became cyanotic, his SpO2 dropped to the ___, and his body 
started shaking. At one point, his the pulse ox read 15%, but 
this was likely a false reading. A code was called, and he was 
intubated. The patient was transferred to the ICU for medical 
management. His respiratory failure was thought to be secondary 
to aspiration pneumonia vs. flash pulmonary edema in the setting 
of afib with ___. The patient was diuresed with IV Lasix and was 
ultimately extubated on ___. There was a low index of suspicion 
for infection, thus antibiotics were held. HR was controlled as 
below. Following transfer to the floor, he had several episodes 
of tachypnea with desaturation into the ___, requiring 
supplemental oxygen and transfer to the medicine service. He was 
given nebulizers, dexamethasone d/t concern for laryngeal edema 
post extubation, and Lasix d/t suggestion of pulmonary edema on 
CXR. However, a TTE did not reveal any diastolic dysfunction, 
and furosemide was ultimately discontinued given low suspicion 
for pulmonary edema (as well as a rise in his creatinine). CXR 
also showed new opacities concerning for aspiration, so his tube 
feeds were discontinued. His respiratory status improved, but he 
still required oxygen, so a chest CT was obtained, which showed 
bronchiectasis, mucus plugging, and ground glass opacification 
in the dependent regions of the right lung. His hypoxemic 
respiratory failure was ultimately thought to arise from mucus 
plugging and aspiration pneumonitis. He remained afebrile with 
no leukocytosis, so he was not thought to have aspiration 
pneumonia. He was taken by ___ for a conversion of PEG to GJ tube 
to decrease his probability of developing aspiration pneumonia. 
His oxygen requirement resolved, and he was discharged on room 
air with no tachypnea.  

# Hypoactive delirium: MRI showed expected evolution of prior 
TBI. EEG for more than 24 hours showed slowing but no evidence 
of seizures. A toxic-metabolic work-up only revealed mild 
hypernatremia to 146. UA was positive from foley, but the UCx 
only grew yeast. Repeat UA was also positive (also from old 
___). Foley replaced. Additionally, he had an area of erythema 
on his RUE that was initially concerning for possible 
cellulitis. He as initially treated with ceftriaxone, and then 
vancomycin was added. ID was consulted, and they recommended 
discontinuation of antibiotic and said yeast in urine as 
contaminant. An LP was done, and the mild pleocytosis and mildly 
elevated protein was thought to be c/w his known TBI ( 4 WBC, 9 
WBC, 17 RBC, 3 RBC, prot 104, gluc 41, lymphocyte ___, OP 
12). He was treated with empiric acyclovir while his HSV and VZV 
were pending. These studies were negative and acyclovir was 
discontinued. His Keppra was decreased from 1g BID to ___ BID to 
try to avoid sedating medication effects. Additionally, 
toxicology recommended discontinuation of trazadone. TSH was 
4.7, T4 was within normal limits. Cdiff neg. RPR and Lyme were 
negative. Quantiferon was indeterminate. During this period, his 
mental status waxed and waned, but he was intermittently able to 
be oriented to name, hospital (but not ___, and month (but 
not year), and he was able to follow midline and some 
appendicular commands. After resolution of his hypoxia, he 
became more alert and interactive.

# Upper airway obstruction secondary to crusting: When asked to 
cough on command, he had an explosive cough despite a hypophonic 
voice. Additionally, his wife mentioned recent thrush. ENT was 
consulted to look at his vocal cords, and they were noted to be 
normal (___). After extubation, the patient was noted to 
have significant upper airway sounds, so ENT was again 
consulted. He was found to have substantial dryness and 
crusting, which was partially obstructing his airway. ENT 
removed the material, and he was placed on humidified oxygen, 
and his breathing improved. He was discharged with follow-up 
with ENT in ___ weeks.

# Paroxysmal Atrial Fibrillation: He was noted to have new onset 
AF on ___ ___s a previously undocumented murmur. A TTE 
showed normal global and regional biventricular systolic 
function. Mild aortic stenosis. Mild mitral regurgitation. Mild 
pulmonary hypertension. The patient was evaluated by 
neurosurgery who said that anticoagulation would be acceptable, 
if indicated. The patient was initially maintained on his home 
labetolol 400mg TID for rate control, but as his HR remained in 
the ___, his labetolol was discontinued. Given his CHADs-vasc 
score was 3, so he was started on warfarin due to moderate-high 
risk of thromboembolism.  His warfarin was uptitrated to 5mg 
daily on ___ given persistently subtherapeutic INR of 1.1.  Pt 
will need repeat head CT once INR therapeutic to rule out IPH.  

# Chest pain secondary to reflux: The patient endorsed 
substernal burning chest pain on ___. An EKG was normal with 
no ST/T changes. Troponins were negative x 2. His chest pain was 
thought to reflect GERD, and his famotidine was switched to 
lansoprazole disintegrating tabs. 

# GI: Pneumoperitoneum was seen on CXR and CT abdomen, but was 
thought to be related to related to PEG tube placement. The 
patient was evaluated by ACS who said no intervention was 
indicated. Abdominal exam was monitored and remained stable. 

# Nutrition: The patient's PEG tube was converted a GJ tube. Due 
to weight loss, his tube feeds were switched to Jevity 1.5 at 60 
ml/hr with addition of thiamine. Due to refeeding risk, his 
electrolytes were closely monitored. 

#Renal/Hypernatremia: Na of 146 treated with free water flushes, 
transitioned to D5W while intubated and NPO, restarted on free 
water flushes once extubated. Sodium was normal at 138 on 
discharge.   

# ID: as above

# Heme: noted to have anemia with high-normal MCV.  B12 and 
folate were normal. Iron studies showed anemia of chronic 
disease. 

Transitional issues:
====================
1. Avascular necrosis of bilateral femoral heads seen on CT 
abd/pelvis, will need outpatient evaluation after discharge
2. ENT follow up ___
3. Neurosurgery follow up with CT Head ___
4. Needs outpatient OSA testing given new AF
5. Pt will need at least weekly Chem 10 to monitor serum sodium 
and electrolytes on TFs
6. MEDICATION CHANGES
 - Warfarin 5 mg QD (uptitrated from 2.5mg QD on ___, INR on 
discharge 1.1, will need frequent monitoring to ensure becomes 
therapeutic with goal INR ___, will need repeat Head CT w/out 
Contrast once INR is therapeutic
 - Levetiracetam dose was decreased to 750mg BID
 - Labetalol was started and stopped given normal blood 
pressures and no recorded episodes of ___ require beta 
blockade in the future
 - Multiple medications prescribed prior to admission were held 
and not restarted during his hospitalization 
 - Discontinue heparin DVT prophylaxis once INR therapeutic

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Amantadine 100 mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
5. LevETIRAcetam 1000 mg PO BID 
6. Lisinopril 40 mg PO DAILY 
7. Famotidine 20 mg PO BID 
8. Heparin 5000 UNIT SC BID 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Senna 17.2 mg PO DAILY 
11. Docusate Sodium (Liquid) 100 mg PO BID 
12. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
13. Labetalol 400 mg PO TID 
14. FoLIC Acid 1 mg PO DAILY 
15. melatonin 3 mg oral QHS 
16. Multivitamins 1 TAB PO DAILY 
17. ___ ___ UNIT PO Q8H 
18. Terazosin 1 mg PO QHS 
19. Albuterol Inhaler 1 PUFF IH Q4H 
20. Ipratropium Bromide Neb 1 NEB IH Q6H 
21. TraZODone 12.5 mg PO QHS 
22. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Amantadine 100 mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
5. Heparin 5000 UNIT SC BID 
6. LevETIRAcetam 750 mg PO BID 
7. Senna 8.6 mg PO BID constipation 
8. Polyethylene Glycol 17 g PO DAILY constipation 
9. Lisinopril 40 mg PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
12. Lansoprazole Oral Disintegrating Tab 30 mg G TUBE DAILY 
13. Warfarin 5 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Hypoxemic respiratory failure
Aspiration pneumonitis
Atrial fibrillation
Encephalopathy

SECONDARY DIAGNOSES:
====================
Traumatic brain injury 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you seemed more confused, 
with less interaction with those around you, as well as new, 
unusual movements. An evaluation for possible infection or 
metabolic abnormalities was negative. However, while in the 
hospital, you developed difficulty breathing, which required 
intubation. You were ultimately extubated, and your breathing 
improved. We think your breathing difficulties arose from 
aspiration, in which fluid from your gastrointestinal tract was 
going into your lungs. You were also seen by ENT, who removed 
dry crusting material from your throat, which we think was 
blocking air from getting to your lungs. When your breathing 
improved, you also became less confused, so we think these 
aspiration events were also causing your unusual behavior at 
admission. During hospitalization, you also developed atrial 
fibrillation, which caused your heart to beat irregularly. Due 
to this arrhythmia, we put you on a blood thinner, as atrial 
fibrillation can cause clots to form, which can then travel to 
your brain. Although you had a recent bleed in your brain, your 
neurosurgeon thought it was safe for us to start this 
medication. 

You are being discharged to rehab to help you recover from your 
traumatic brain injury. 

It was a pleasure taking care of you. 

Your ___ team
 
Followup Instructions:
___